US06949579B2
(2E) N-(6-chloro-1H-indazol-3-yl)-2-butenamide
0.67 cm3 of distilled crotonyl chloride is added to 50 mg of 6-chloro-1H-indazole-3-amine dissolved in 5 cm3 of pyridine and cooled to about 6° C. The mixture is stirred for 10 minutes and the temperature is then allowed to rise to about 19° C. over 22 hours. The reaction medium is then concentrated to dryness under reduced pressure (2 kPa; 40° C.) and the residue is then taken up in 50 cm3 of tetrahydrofuran and 25 cm3 of ethyl acetate. The organic phase is washed with 2×50 cm3 of distilled water and then with 50 cm3 of saturated aqueous sodium chloride solution. The resulting solution is dried over magnesium sulphate, filtered through a sinter funnel and then evaporated under the conditions described previously. The residue obtained is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 4.5 cm), eluting with a cyclohexane/ethyl acetate mixture (80/20 by volume) and collecting 20 cm3 fractions. The fractions containing the expected product are combined and then evaporated under the conditions already described. After drying (90 Pa; 45° C.), 100 mg of N-(6-chloro-1H-indazol-3-yl)-2-butenamide, E form, are obtained in the form of a white solid melting at 226° C.

reactant | crotonyl chloride | 0.67 cm3 | C(\C=C\C)(=O)Cl | C4H5ClO
reactant | 6-chloro-1H-indazole-3-amine | 50 mg | ClC1=CC=C2C(=NNC2=C1)N | C7H6ClN3
solvent | pyridine | 5 cm3 | N1=CC=CC=C1 | C5H5N
product | N-(6-chloro-1H-indazol-3-yl)-2-butenamide | ClC1=CC=C2C(=NNC2=C1)NC(C=CC)=O | C11H10ClN3O
